### ISSUE TITLE
Discrepancy between TC synthesis in Lean 3 and 4

### ISSUE THREAD

**Issue by lecopivo** [leanprover/lean4#1007]
I have posted this on Zulip as I'm not sure if it is a real issue or just my incorrect expectation of how Lean 4 should behave. On Zulip it fell through the crack with no response, so I'm posting it here.

The issue:
I have a piece of code that in Lean 3 fails to synthesize an instance in finite number of steps but in Lean 4 it timeouts. I really do not understands what is going wrong in the Lean 4 code, maybe nothing and it is behaving as expected. However, it gets into very strange infinite loop.

Lean 3 code that fails on the last example. The failure is a proper failure and not a timeout.
```
universes u v w

class Vec (X : Type u)

class IsLin {X Y} [Vec X] [Vec Y] (f : X → Y)

structure ℝ :=
  (value : nat)

instance {X : Type u} {Y : Type v} [Vec X] [Vec Y] : Vec (X × Y) := sorry
instance {α : Type u} {X : Type v} [Vec X] : Vec (α → X) := sorry

@[priority std.priority.default+1]
instance : Vec ℝ := sorry

--------------

instance comp_is_lin {X Y Z : Type} [Vec X] [Vec Y] [Vec Z]
  (f : Y → Z) (g : X → Y) [IsLin f] [IsLin g]
  : IsLin (λ x, f (g x)) := sorry

----------------

class Trait (X : Type u) :=
  (R : Type v)

attribute [reducible] Trait.R

class SemiInner (X : Type u) (R : Type v) :=
  (semiInner : X → X → R)

@[reducible] instance instTrait (X) (R : Type u) [SemiInner X R] : Trait X := ⟨R⟩

class SemiHilbert (X) (R : Type u) [Vec R] extends Vec X, SemiInner X R

instance instSemiHilbertForAll (X R) [Trait X] [Vec R] [SemiHilbert X R] (ι : Type v) : SemiHilbert (ι → X) R := sorry
instance instSemiHilbertℝ : SemiHilbert ℝ ℝ := sorry

--------------

def norm {X} [Trait X] [inst : SemiInner X (Trait.R X)] (x : X) : Trait.R X := sorry
def sum' {n} (f : fin n → ℝ) : ℝ := sorry

variables (n m : nat)

-- these all should work
-- oddly enough lean 3 does not require the `reducible` attribute to get these working
example : Trait (fin n → fin m → ℝ) := infer_instance
example : SemiInner ℝ (Trait.R ℝ) := infer_instance
example : SemiHilbert (fin n → ℝ) ℝ := infer_instance
example : SemiHilbert (fin n → ℝ) (Trait.R ℝ) := infer_instance
example : Trait (fin n → fin m → (Trait.R ℝ)) := infer_instance
example : SemiHilbert (Trait.R ℝ) ℝ := infer_instance

-- This fails to synthesize in finite number of steps
example : IsLin  (λ (x : ℝ), sum' (λ i : fin n, norm x)) := infer_instance
```

Fails with:
```
failed to synthesize type class instance for
n : ℕ
⊢ IsLin (λ (x : ℝ), sum' (λ (i : fin n), norm x))
```

Hopefully identical code in Lean 4 that timeouts instead:
```
class Vec (X : Type u)

class IsLin {X Y} [Vec X] [Vec Y] (f : X → Y)

structure ℝ where
  value : Float

instance {X : Type u} {Y : Type v} [Vec X] [Vec Y] : Vec (X × Y) := sorry
instance {α : Type u} {X : Type v} [Vec X] : Vec (α → X) := sorry

instance (priority := mid+1) : Vec ℝ := sorry

--------------

instance comp_is_lin {X Y Z : Type} [Vec X] [Vec Y] [Vec Z]
  (f : Y → Z) (g : X → Y) [IsLin f] [IsLin g]
  : IsLin (λ x => f (g x)) := sorry

----------------

class Trait (X : Type u) where
  R : Type v

attribute [reducible] Trait.R

class SemiInner (X : Type u) (R : Type v) where
  semiInner : X → X → R

@[reducible] instance (X) (R : Type u) [SemiInner X R] : Trait X := ⟨R⟩

class SemiHilbert (X) (R : Type u) [Vec R] extends Vec X, SemiInner X R

instance (X R) [Trait X] [Vec R] [SemiHilbert X R] (ι : Type v) : SemiHilbert (ι → X) R := sorry
instance : SemiHilbert ℝ ℝ := sorry

--------------

def norm {X} [Trait X] [inst : SemiInner X (Trait.R X)] (x : X) : Trait.R X := sorry
def sum {n} (f : Fin n → ℝ) : ℝ := sorry

variable (n m : Nat)

-- these all should work
example : Trait (Fin n → Fin m → ℝ) := by infer_instance
example : SemiInner ℝ (Trait.R ℝ) := by infer_instance
example : SemiHilbert (Fin n → ℝ) ℝ := by infer_instance
example : SemiHilbert (Fin n → ℝ) (Trait.R ℝ) := by infer_instance
example : Trait (Fin n → Fin m → (Trait.R ℝ)) := by infer_instance
example : SemiHilbert (Trait.R ℝ) ℝ := by infer_instance

-- set_option synthInstance.maxHeartbeats 50 in
-- set_option pp.explicit true in
-- set_option trace.Meta.synthInstance true in

-- This should not timeout but failt in finite number of steps like in Lean 3
example : IsLin  (λ (x : ℝ) => sum λ i : Fin n => norm x) := by infer_instance
```
Fails with:
```
(deterministic) timeout at 'typeclass', maximum number of heartbeats (500) has been reached (use 'set_option synthInstance.maxHeartbeats <num>' to set the limit)
```

I'm expecting the Lean 4 version to fail in the same fashion as Lean 3 code.

Lean versions:
```
Lean (version 3.38.0, commit a8cf8a0c9ea1, Release)
Lean (version 4.0.0-nightly-2022-01-25, commit b20ecd02d76d, Release)
```

**Comment by leodemoura** [comment]
@Kha @gebner I believe the failure happens because the (small) heartbeat threshold is reached before the other limits. I will investigate why the other thresholds we have did not "fire" here. That being said, I will catch the heartbeat exception in the TC module and generate a better error message.

**Comment by leodemoura** [comment]
To get a quick failure like in Lean 3, we must tag the instance `comp_is_lin` with the attribute `[inferTCGoalRL]`.
```lean
@[inferTCGoalsRL]
instance comp_is_lin {X Y Z : Type} [Vec X] [Vec Y] [Vec Z]
  (f : Y → Z) (g : X → Y) [IsLin f] [IsLin g]
  : IsLin (λ x => f (g x)) := sorry
```

**Comment by leodemoura** [comment]
BTW, instance `comp_is_lin` is also problematic because it produces high-order metavariables for `f` and `g`, and is doomed to be unstable. 

@Kha @gebner Any thoughts? I am planning to close this issue. Perhaps, we may add a linter in the future that reports problematic instances such as `comp_in_lin`.

**Comment by lecopivo** [comment]
Thank you very much for looking into this. What is inferTCGoalsRL roughly doing? Searching GitHub, Zulip or googling didn't yield anything for me and I'm on mobile right now so I can't grep the code base.

Also what does it mean that the instance is unstable? It is absolutely crucial to my project [SciLean](https://github.com/lecopivo/SciLean) and such instance was my motivation for [modifying TC](https://github.com/leanprover/lean4/blob/b0fe1e5d10aed9e62949511eecc20b0c6e9fd97f/tests/lean/run/815.lean#L10) in the first place.

**Comment by leodemoura** [comment]
> What is inferTCGoalsRL roughly doing?

It changes the order Lean solves the TC subgoals. For example, to apply the instance `comp_is_lin`, Lean has to solve 5 subgoals: `[Vec X]`, `[Vec Y]`, `[Vec Z]`, `[IsLin f]`, and `[IsLin g]`. By default, Lean solves them from left to right. The attribute instructs Lean to solve them from right to left.

**Comment by lecopivo** [comment]
Oh that is great! The problem might be then solved by adding this attribute to the following instance instead
```
instance (X R) [Trait X] [Vec R] [SemiHilbert X R] (ι : Type v) : SemiHilbert (ι → X) R := sorry
```
And the `Trait X` can be dropped as it was there only as a safe guard to prevent synthetising `Vec R` if there is no hope to synthesise `SemiHilbert X R`

**Comment by lecopivo** [comment]
I still do not understand what is going on. Here is a simpler code exhibiting the same behavior and does not contain the problematic instance `comp_is_lin`. In Lean 4 it timeouts and Lean 3 it works correctly. It can be solved by modifying the priority on the instance `instance : Vec ℝ := ⟨⟩` but it is not necessary in Lean 3.

To me it feels that using either `priority := mid+1`  or `inferTCGoalRL` is just some patchwork dealing with some deeper hidden issue.

Lean 4 code: 
```
class Vec (X : Type u) 

class IsLin {X Y} [Vec X] [Vec Y] (f : X → Y)

structure ℝ where
  value : Float

instance {X : Type u} {Y : Type v} [Vec X] [Vec Y] : Vec (X × Y) := ⟨⟩
instance {α : Type u} {X : Type v} [Vec X] : Vec (α → X) := ⟨⟩
instance : Vec ℝ := ⟨⟩
-- instance (priority := mid+1) : Vec ℝ := ⟨⟩

----------------

class Trait (X : Type u) where
  R : Type v

class SemiInner (X : Type u) (R : Type v) where  
  semiInner : X → X → R

instance (X) (R : Type u) [SemiInner X R] : Trait X := ⟨R⟩

class SemiHilbert (X) (R : Type u) [Vec R] extends Vec X, SemiInner X R

instance (X R) [Vec R] [SemiHilbert X R] (ι : Type v) : SemiHilbert (ι → X) R := sorry
instance : SemiHilbert ℝ ℝ := sorry

--------------

set_option synthInstance.maxHeartbeats 20 in
set_option trace.Meta.synthInstance true in
example (n m) : Trait (Fin n → Fin m → ℝ) := by infer_instance
```

Lean 3 code:
```
universes u v w

class Vec (X : Type u) 

class IsLin {X Y} [Vec X] [Vec Y] (f : X → Y)

structure ℝ :=
  (value : nat)

instance {X : Type u} {Y : Type v} [Vec X] [Vec Y] : Vec (X × Y) := Vec.mk
instance {α : Type u} {X : Type v} [Vec X] : Vec (α → X) := Vec.mk
instance : Vec ℝ := Vec.mk

----------------

class Trait (X : Type u) :=
  (R : Type v)

class SemiInner (X : Type u) (R : Type v) :=
  (semiInner : X → X → R)

instance instTrait (X) (R : Type u) [SemiInner X R] : Trait X := ⟨R⟩

class SemiHilbert (X) (R : Type u) [Vec R] extends Vec X, SemiInner X R

instance instSemiHilbertForAll (X R) [Vec R] [SemiHilbert X R] (ι : Type v) : SemiHilbert (ι → X) R := sorry
instance instSemiHilbertℝ : SemiHilbert ℝ ℝ := sorry

--------------

example (n m) : Trait (fin n → fin m → ℝ) := infer_instance
```

**Comment by Kha** [comment]
Now the problematic instances are
```
attribute [inferTCGoalsRL] SemiHilbert.toSemiInner instSemiHilbertForAll
```
At least for the latter instance, you can simply swap the parameters alternatively.



> To me it feels that using either `priority := mid+1` or `inferTCGoalRL` is just some patchwork dealing with some deeper hidden issue.

Lean 4 infers goals from left to right by default, Lean 3 community does the opposite. Neither approach is complete. There is no one-size-fits-all solution.

**Comment by Kha** [comment]
> @Kha @gebner Any thoughts?

It looks to me like the main issue is this one:

> And the `Trait X` can be dropped as it was there only as a safe guard to prevent synthetising `Vec R` if there is no hope to synthesise `SemiHilbert X R`

Users do not expect that unsolved metavariables are introduced during TC synthesis. We have a handful of examples like transitive coercions where this is useful, but I believe that at the very least, this dangerous behavior should be made opt-in per-instance.

**Comment by lecopivo** [comment]
Ahh makes sense and adding the attribute to `SemiHilbert.toSemiInner` makes sense.

I was trying:
```
@[inferTCGoalsRL]
instance (X R) [Vec R] [SemiHilbert X R] (ι : Type v) : SemiHilbert (ι → X) R := sorry
```
and it didn't work.

**Comment by lecopivo** [comment]
> Users do not expect that unsolved metavariables are introduced during TC synthesis. We have a handful of examples like transitive coercions where this is useful, but I believe that at the very least, this dangerous behavior should be made opt-in per-instance.

I tripped over this behavior [before](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Typeclass.20timeout.20and.20outParam), the solution was exactly to reorder the typeclasses and in more complicated cases to use the Trait class as a safe guard. At the time, I didn't know about the attribute `inferTCGoalsRL` which solves the problem too.

**Comment by leodemoura** [comment]
I am planning to close this issue too.
